US04020269
In 250 parts by volume of an 0.5N aqueous solution of barium hydroxide is dissolved 5.0 parts of butirosin A. The solution is refluxed for 2 hours and then cooled. The solution is neutralized with 1N sulfuric acid. The resulting precipitate of barium sulfate is removed off by centrifuge. The supernatant fluid is run onto a column of 300 parts by volume of cation exchange resin [Amberlite CG-50 (NH4+ -form) (Rohm and Haas Co.)]. The column is washed with water and eluted with 0.2N aqueous ammonia. Fractions containing xylostasin which is detected by thin layer chromatography are pooled and concentrated under reduced pressure to dryness and lyophilized, whereby 3.8 parts of xylostasin as white powders are obtained.

reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
reactant | butirosin A | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O)O[C@H]2[C@@H]([C@H]([C@H](O2)CO)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)N)N | C21H41N5O12
solvent | barium hydroxide | [OH-].[Ba+2].[OH-]
product | xylostasin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@H]([C@H](O3)CO)O)O)O)N | C17H34N4O10
